US09328089B2
1 g of 7-{(3S,4S)-3-[(cyclopropylamino)methyl]-4-fluoropyrrolidine-1-yl}-6-fluoro-1-(2-fluoroethyl)-8-methoxy-4-oxo-1,4-dihydroquinoline-3-carboxylic acid hydrochloride salt (crystals A) was spread over a petri dish and placed in a desiccator in which a saturated potassium sulfate solution had been placed. The crystals A was stored at 25° C. for 1 week to obtain 7-{(3S,4S)-3-[(cyclopropylamino)methyl]-4-fluoropyrrolidine-1-yl}-6-fluoro-1-(2-fluoroethyl)-8-methoxy-4-oxo-1,4-dihydroquinoline-3-carboxylic acid hydrochloride salt hydrate (crystals B).

reactant | 7-{(3S,4S)-3-[(cyclopropylamino)methyl]-4-fluoropyrrolidine-1-yl}-6-fluoro-1-(2-fluoroethyl)-8-methoxy-4-oxo-1,4-dihydroquinoline-3-carboxylic acid hydrochloride salt | 1 g | Cl.C1(CC1)NC[C@H]1CN(C[C@H]1F)C1=C(C=C2C(C(=CN(C2=C1OC)CCF)C(=O)O)=O)F
reactant | potassium sulfate | S(=O)(=O)([O-])[O-].[K+].[K+]
product | 7-{(3S,4S)-3-[(cyclopropylamino)methyl]-4-fluoropyrrolidine-1-yl}-6-fluoro-1-(2-fluoroethyl)-8-methoxy-4-oxo-1,4-dihydroquinoline-3-carboxylic acid hydrochloride salt hydrate | O.Cl.C1(CC1)NC[C@H]1CN(C[C@H]1F)C1=C(C=C2C(C(=CN(C2=C1OC)CCF)C(=O)O)=O)F | InChI=1S/C21H24F3N3O4.ClH.H2O/c1-31-20-17-13(19(28)14(21(29)30)9-26(17)5-4-22)6-15(23)18(20)27-8-11(16(24)10-27)7-25-12-2-3-12;;/h6,9,11-12,16,25H,2-5,7-8,10H2,1H3,(H,29,30);1H;1H2/t11-,16+;;/m0../s1
